US07371865B2
(E)-(3R,5S)-7-[2-Cyclopropyl-4-(4-fluoro-phenyl)quinolin-3-yl]-3,5-dihydroxy-hept-6-enoic acid ((S)-1-phenyl-ethyl)-amide (4.0 g, 6.53 mmol) is dissolved in ethanol (40 mL). Water (40 mL) and sodium hydroxide powder (2.64 g, 66 mmol) are added and the mixture is heated at 50-55° C. for 26 h, until an in-process control (HPLC) indicated complete conversion. Hydrochloric acid (59 mL of a 1M solution, 59 mmol) is added slowly over a time period of 15 minutes. The solvent is distilled under reduced pressure and the residue is dissolved in water (80 mL). The water solution is extracted with tert-butyl-methyl ether (3×80 mL) and the organic phase is removed. The water phase is evaporated under reduced pressure and the residue is re-dissolved in water (176 mL). Hydrochloric acid (6.53 mL of a 1M solution, 6.53 mmol) is added to precipitate the acid, followed by the addition of ethyl acetate (176 mL). The mixture is stirred for 15 min. and the layers are separated. The organic layer is washed with water (90 mL). Charcoal (0.5 g) is added to the organic layer and the mixture is stirred at 30-35° C. for several hours. Filter-aid (Cellflock, 1.0 g) is added and stirring is continued for additional 30 min. The charcoal is removed by filtration on a filter-aid to obtain a clear solution and the solvent is evaporated at 30-35° C. under reduced pressure, to obtain (E)-(3R,5S)-7-[2-Cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3,5-dihydroxy-hept-6-enoic acid as a white solid. For the formation of the calcium salt, the acid (2.55 g, 6.05 mmol) is suspended in water (40.5 mL) and sodium hydroxide (0.260 g, 6.5 mmol) is added to obtain a clear solution of the corresponding sodium salt. A solution of calcium chloride (0.399 g, 3.49 mmol) in water (2 mL) is added dropwise to the solution of the sodium salt. A suspension is formed immediately upon addition of calcium chloride. The suspension is stirred for 4 hours at 20-25° C. and for 2 hours at 15-17° C. The product is isolated by filtration, the filter cake is washed with cold water and dried in vacuo at 20-25° C. to obtain

reactant | (E)-(3R,5S)-7-[2-Cyclopropyl-4-(4-fluoro-phenyl)quinolin-3-yl]-3,5-dihydroxy-hept-6-enoic acid ((S)-1-phenyl-ethyl)-amide | 6.53 mmol, 4.0 g | C1(=CC=CC=C1)[C@H](C)NC(C[C@@H](C[C@@H](\C=C\C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C1CC1)O)O)=O | C33H33FN2O3
reactant | Water | 40 mL | O | H2O
reactant | sodium hydroxide | 66 mmol, 2.64 g | [OH-].[Na+]
reactant | Hydrochloric acid | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | (E)-(3R,5S)-7-[2-Cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3,5-dihydroxy-hept-6-enoic acid | C1(CC1)C1=NC2=CC=CC=C2C(=C1/C=C/[C@H](C[C@H](CC(=O)O)O)O)C1=CC=C(C=C1)F | C25H24FNO4
